US06995263B2
c] {6-[2-Methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid
In analogy to the procedure described in example 5 g], {6-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as off-white crystals.

reactant | {6-[2-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C)=O | C26H23F3N2O3
reactant | LiOH | [Li+].[OH-]
product | {6-[2-Methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid | CC1=NC(=CC=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C24H19F3N2O3
